US05840714
S-(+)-ibuprofen (5.0 g; 0.024 mole) was shed into methanol (35 ml), concentrated sulfuric acid (1 ml) was added and the reaction mixture was heated for 3 hours at the reflux temperature of the reaction mixture. Then it was evaporated in vacuo at the temperature of 30° C. to dryness. S-(+)-ibuprofen methyl ester (5.1 g) was obtained.

reactant | S-(+)-ibuprofen | 0.024 mole, 5.0 g | C[C@@H](C1=CC=C(C=C1)CC(C)C)C(=O)O | C13H18O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 35 ml | CO | CH4O
product | S-(+)-ibuprofen methyl ester | 5.1 g | CC(C)CC1=CC=C(C=C1)C(C)C(=O)OC | C14H20O2
